US07994143B2
17-methyloctadecan-1-ol was prepared from 12-bromo-1-dodecanol and 5-methylhexylbromide in 44% yield. 1H NMR δ 0.86 (6H), 1.10-1.40 (32H), 3.64 (2H).

reactant | 12-bromo-1-dodecanol | BrCCCCCCCCCCCCO | C12H25BrO
reactant | 5-methylhexylbromide | CC(CCCCBr)C | C7H15Br
product | 17-methyloctadecan-1-ol | 44% yield | CC(CCCCCCCCCCCCCCCCO)C | C19H40O
